US05334765
To sodium hexamethyldisilazane (0.945M in tetrahydrofuran) (667 mL, 0.63 mol) in tetrahydrofuran (0.9 L) at -78° C., under nitrogen, was added a solution of ethyl 4,4,4-trifluorobutyrate (90.6 mL) in tetrahydrofuran (100 mL). After stirring for 1.5 hour, to the vigorously stirred mixture was added methyl iodide (112 mL) as fast as possible. The reaction was warmed with a 0° C. bath for 2 hours. Methanol (1 L) and 1N lithium hydroxide (1.2 L) were added and stirring continued for 48 hours. The mixture was acidified with 2N hydrochloric acid and extracted with ethyl acetate. The combined organic phase was washed (brine), dried (MgSO4), and evaporated at 30° C. After combination with product from separate conversions of ethyl 4,4,4-trifluorobutyrate (97.79 g), distillation afforded 2-methyl-4,4,4-trifluorobutyric acid (173.24 g, 96%) as a brown solid-liquid contaminated with 4,4,4-trifluorobutyric acid and 2,2-dimethyl-4,4,4-trifluorobutyric acid; bp 48.0°-108° C. (9,900 Pa); GLC: tR =6.1 min.

reactant | sodium hexamethyldisilazane | 0.63 mol, 0.945M, 667 mL | C[Si](N[Si](C)(C)C)(C)C.[Na]
reactant | ethyl 4,4,4-trifluorobutyrate | 90.6 mL | FC(CCC(=O)OCC)(F)F | C6H9F3O2
reactant | methyl iodide | 112 mL | CI | CH3I
reactant | lithium hydroxide | 1N, 1.2 L | [OH-].[Li+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 0.9 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | Methanol | 1 L | CO | CH4O
product | 2-methyl-4,4,4-trifluorobutyric acid | 173.24 g, 96% | CC(C(=O)O)CC(F)(F)F | C5H7F3O2
